US05891916
3) Ethyl (4-cyano-4,4-diphenylbutylthio)acetate
To a solution of 4-cyano-4,4-diphenyl iodobutane (0.4 g, 1.1 mmol.) in N,N-dimethylformamide (3 ml) were added potassium carbonate (0.31 g, 2,2 mmol.) and ethyl thioglycolate (0.14 g, 1.2 mmol.). The mixture was stirred for 15 hours at room temperature. To the reaction mixture was added water, which was subjected to extraction with ethyl acetate. The organic layer was washed with a saturated aqueous saline solution and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure. The residue was subjected to a silica gel column chromatography, eluting with hexane - ethyl acetate (4:1) to afford the title compound (0.22 g).

reactant | 4-cyano-4,4-diphenyl iodobutane | 1.1 mmol, 0.4 g | C(#N)C(CCCI)(C1=CC=CC=C1)C1=CC=CC=C1 | C17H16IN
reactant | potassium carbonate | 2,2 mmol, 0.31 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl thioglycolate | 1.2 mmol, 0.14 g | C(CS)(=O)OCC | C4H8O2S
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | Ethyl (4-cyano-4,4-diphenylbutylthio)acetate | 0.22 g | C(#N)C(CCCSCC(=O)OCC)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H23NO2S
